US06087380
1-Methyl-2-[N-(2-methoxy-4-n-heptyloxycarbonylamidino-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and n-heptyl chloroformate. Yield: 55% of theory, C36H45N7O6 (671.8) Rf value: 0.54 (silica gel; dichloromethane/ethanol=9:1) ##EQU144##

reactant | 1-methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C(N)=N)OC)C)C=C1)CCC(=O)OCC
reactant | n-heptyl chloroformate | ClC(=O)OCCCCCCC | C8H15ClO2
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(2-methoxy-4-n-heptyloxycarbonylamidino-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | Yield: 55% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C(NC(=O)OCCCCCCC)=N)OC)C)C=C1)CCC(=O)OCC | C36H45N7O6
